US06455521B1
2-Formylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one (1.6 g) was suspended in methanol (30 ml) and sodium borohydride (480 mg) was added. The mixture was stirred at room temperature for 1.5 hours. The reaction mixture was diluted with water and extracted 3 times with chloroform. The organic layer was dried over sodium sulfate and the solvent was evaporated under reduced pressure. To the residue were added chloroform and diisopropyl ether and the precipitated crystals were collected by filtration to give 2-hydroxymethylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one (1.0 g).

reactant | 2-Formylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 1.6 g | C(=O)C1=CC2=C(OC3=C(NC2=O)C=CC=C3)S1 | C12H7NO3S
reactant | sodium borohydride | 480 mg | [BH4-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | water | O | H2O
product | 2-hydroxymethylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 1.0 g | OCC1=CC2=C(OC3=C(NC2=O)C=CC=C3)S1 | C12H9NO3S
